 *Custom Compiler Version S-2021.09
*Tue Mar  1 17:33:19 2022


********************************************************************************
* Library          : mine
* Cell             : Neuron
* View             : schematic
* View Search List : hspice hspiceD cmos.sch cmos_sch schematic veriloga
* View Stop List   : hspice hspiceD veriloga
********************************************************************************
.subckt neuron vdd in vad vau vk vr vss vth vw
xm6 net31 in vth vth n105 w=0.26u l=0.260u nf=1 m=1
xm5 net42 net40 vss vss n105 w=0.260u l=0.260u nf=1 m=1
xm4 vss vad net53 vss n105 w=0.260u l=0.260u nf=1 m=1
xm3 vss vr net51 vss n105 w=0.26u l=0.260u nf=1 m=1
xm2 vss net51 in vss n105 w=0.26u l=0.260u nf=1 m=1
xm1 vss net53 in vss n105 w=0.26u l=0.260u nf=1 m=1
xm0 in vk vss vss n105 w=0.26u l=0.260u nf=1 m=1
xm11 net53 vau net42 net42 p105 w=0.26u l=0.260u nf=1 m=1
xm10 net51 vw net42 net42 p105 w=0.26u l=0.260u nf=1 m=1
xm9 net42 net40 vdd vdd p105 w=0.8u l=260n nf=1 m=1
xm8 in net40 vdd vdd p105 w=0.26u l=0.260u nf=1 m=1
xm7 net31 net40 vdd vdd p105 w=0.26u l=0.260u nf=1 m=1
c14 net53 vss c=100f
c13 net51 vss c=30f
c12 in vss c=50f
.ends neuron
