*  Generated for: PrimeSim
*  Design library name: mine
*  Design cell name: tb_Neuron
*  Design view name: schematic
.lib 'saed32nm.lib' TT

*Custom Compiler Version S-2021.09
*Tue Mar  1 17:04:54 2022

.global gnd!
********************************************************************************
* Library          : mine
* Cell             : Neuron
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt neuron vdd in vad vau vk vr vss vth vw
xm6 net31 in vth vth n105 w=0.26u l=0.260u nf=1 m=1
xm5 net42 net40 vss vss n105 w=0.260u l=0.260u nf=1 m=1
xm4 vss vad net53 vss n105 w=0.260u l=0.260u nf=1 m=1
xm3 vss vr net51 vss n105 w=0.26u l=0.260u nf=1 m=1
xm2 vss net51 in vss n105 w=0.26u l=0.260u nf=1 m=1
xm1 vss net53 in vss n105 w=0.26u l=0.260u nf=1 m=1
xm0 in vk vss vss n105 w=0.26u l=0.260u nf=1 m=1
xm11 net53 vau net42 net42 p105 w=0.26u l=0.260u nf=1 m=1
xm10 net51 vw net42 net42 p105 w=0.26u l=0.260u nf=1 m=1
xm9 net42 net40 vdd vdd p105 w=0.8u l=260n nf=1 m=1
xm8 in net40 vdd vdd p105 w=0.26u l=0.260u nf=1 m=1
xm7 net31 net40 vdd vdd p105 w=0.26u l=0.260u nf=1 m=1
c14 net53 vss c=100f
c13 net51 vss c=30f
c12 in vss c=50f
.ends neuron

********************************************************************************
* Library          : mine
* Cell             : tb_Neuron
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
xi0 net12 vin net26 net25 net17 net21 gnd! net15 net19 neuron
v9 net26 gnd! dc=0.003
v8 net25 gnd! dc=0.28
v7 net21 gnd! dc=0.12
v6 net19 gnd! dc=0.08
v5 net17 gnd! dc=0.03
v3 net12 gnd! dc=0.3
v4 net15 gnd! dc=0.05
i10 gnd! vin dc=20p








.tran '0.1m' '20m' name=tran

.option primesim_remove_probe_prefix = 0
.probe v(*) i(*) level=1
.probe tran v(vin)

.temp 25



.option primesim_output=wdf


.option parhier = LOCAL






.end
